US06063782
0.85 g (0.0076 mole) of potassium tert-butoxide was added to a solution of 0.48 g-(0.0038 mole) of 4-fluorobenzyl alcohol and 0.08 g (0.0003 mole) of 18-crown-6 in 30 ml of tetrahydrofuran and the mixture was stirred at room temperature for 10 minutes. 0.45 g (0.0019 mole) of 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine was then added to the mixture and stirred at room temperature for 8 hours. After completion of the reaction, the reaction mixture was poured into ice-water and the aqueous mixture was extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel using a 4:1 mixture of toluene and ethyl acetate as an eluent. An oily material thus obtained was crystallized in hexane to give 0.39 g of 1-(2-butenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=13/87) as a pale brown powder.

reactant | potassium tert-butoxide | 0.0076 mole, 0.85 g | CC(C)([O-])C.[K+]
reactant | 4-fluorobenzyl alcohol | 0.0038 mole | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | 18-crown-6 | 0.0003 mole, 0.08 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.0019 mole, 0.45 g | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2-butenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.39 g | C(C=CC)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C)C | C19H20FN3O
